US08283353B2
ethyl 2-[(trans-4-{6-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]butanoate
A mixture of 3′-fluoro-4′-{[4-(trans-4-hydroxycyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (0.50 g), rhodium(II) acetate (dimer) (0.0050 g) and toluene (5 mL) was heated to 80° C. under an argon atmosphere, a solution of 2-diazobutyric acid ethyl ester (0.87 g) in toluene (5 mL) was added dropwise, and the mixture was stirred at 80° C. for 10 min. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.35 g, 56%).

reactant | 3′-fluoro-4′-{[4-(trans-4-hydroxycyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.50 g | FC=1C=C(C=CC1CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)O)=O)C=2C(=CC=CC2)C#N | C28H28FN5O2
reactant | 2-diazobutyric acid ethyl ester | 0.87 g | C(C)OC(C(CC)=[N+]=[N-])=O | C6H10N2O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | rhodium(II) acetate | 0.0050 g | C(C)(=O)[O-].[Rh+2].C(C)(=O)[O-]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-[(trans-4-{6-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]butanoate | 0.35 g, 56% | C(#N)C1=C(C=CC=C1)C1=CC(=C(C=C1)CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)OC(C(=O)OCC)CC)=O)F | C34H38FN5O4
